US05478820
Allyl 3-aminobenzoate (5 g, 28.2 mM) was dissolved in triethyl orthoformate (50 ml) and trifluoroacetic acid (5 drops) was added. The soluiton was stirred and refluxed up through 3å molecular sieves for 5 hours. Solvent was removed, and the residue dissolved in ethanol (50 ml), followed by the addition of acetic acid (8.08 ml) and sodium cyanoborohydride (6.85 g, 0,108 M) in several portions. The mixture was stirred at ambient temperature for 16 hours, and solvent removed. The residue was dissolved in diethyl ether, washed with water, brine, and dried over MgSO4. Crude product was purified by chromatography on silica, eluting with a gradient from dichloromethane to dichloromethane/ethyl acetate (95:5), to give allyl 3-methylaminobenzoate (0.93 g, 17%). Nmr (CDCl3): δ2.88 (s, 3H); 4.81 (dt, 2H); 5.23-5.45 (m, 2H); 5.94-6.13 (m, 1H); 6.83 (dd, 1H); 7.25 (dd, 1H); 7.33 (t, 1H); 7.43 (dm, 1H).

reactant | Allyl 3-aminobenzoate | 28.2 mM, 5 g | NC=1C=C(C(=O)OCC=C)C=CC1 | C10H11NO2
reactant | triethyl orthoformate | 50 ml | C(OCC)(OCC)OCC | C7H16O3
catalyst | trifluoroacetic acid | 5 drops | FC(C(=O)O)(F)F | C2HF3O2
product | allyl 3-methylaminobenzoate | 0.93 g, 17% | CNC=1C=C(C(=O)OCC=C)C=CC1 | C11H13NO2
